US09023873B2
N-[3-[[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]-methyl-carbamoyl]-2-methoxy-phenyl]-N-methyl-pyridine-4-carboxamide (Compound G17 of Table G)
To a solution of N-[3-[[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]carbamoyl]-2-methoxy-phenyl]-N-methyl-pyridine-4-carboxamide (0.100 g, 0.145 mmole) in N,N-dimethylformamide (4 ml) was added sodium hydride (55% suspension in oil, 0.0067 g, 0.153 mmole). After the gas evolution had stopped, iodomethane (0.010 ml, 0.023 g, 0.160 mmole) was added. After 0.5 hour, the reaction mixture was poured on to water (15 ml) and the product was extracted with ethyl acetate. The organic solution was washed with water, then brine and dried over sodium sulfate. After removal of the solvent the crude was purified by column chromatography over silica gel using ethyl acetate-cyclohexane to yield the title compound (Compound G17 of Table G) as amorphous material showing by LC-MS analysis under the conditions 6 (described hereafter) a retention time of 1.09 min and a M+H+ mass of 700.

reactant | N-[3-[[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]carbamoyl]-2-methoxy-phenyl]-N-methyl-pyridine-4-carboxamide | 0.145 mmole, 0.100 g | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)Br)NC(=O)C=1C(=C(C=CC1)N(C(=O)C1=CC=NC=C1)C)OC | C24H16Br2F7N3O3
reactant | sodium hydride | 0.153 mmole, 0.0067 g | [H-].[Na+]
reactant | iodomethane | 0.160 mmole, 0.010 ml, 0.023 g | IC | CH3I
reactant | water | 15 ml | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | N-[3-[[2,6-dibromo-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl]-methyl-carbamoyl]-2-methoxy-phenyl]-N-methyl-pyridine-4-carboxamide | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)Br)N(C(=O)C=1C(=C(C=CC1)N(C(=O)C1=CC=NC=C1)C)OC)C | C25H18Br2F7N3O3
